US07312241B2
(3,4-dimethoxyphenyl)-(3,5-dimethoxyphenyl)methanone (0.96 g, 3.18 mmol), (ethyl)triphenylphosphonium bromide (2.36 g, 6.35 mmol), and lithium bis(trimethylsilyl)amide (1.0 M solution in THF, 6.35 ml, 6.35 mmol) were treated in the same manner as described above for the synthesis of 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile. The crude was purified via flash column chromatography (10% EtOAc in hexane gradient to 20% EtOAc in hexane in about 30 min.) to give 4-[1-(3,5-dimethoxyphenyl)prop-1-enyl]-1,2-dimethoxybenzene a light brown oil (0.97 g, 97%): 1HNMR (CDCl3) δ 6.89-6.83 (m, 2H, Ar), 6.76-6.68 (m, 4H, Ar), 6.43-6.39 (m, 3H, Ar), 6.36-6.34 (m, 3H, Ar), 6.20-6.03 (m, 2H, double bond protons), 3.91 (s, 3H, OCH3), 3.86 (s, 3H, OCH3), 3.83 (s, 6H, 2OCH3), 3.78 (s, 6H, 2OCH3), 3.74 (s, 6H, 2OCH3), 1.78-1.74 (m, 6H, 2CH3): 13C NMR (CDCl3) δ 160.7, 160.6, 148.7, 148.7, 148.3, 148.0, 145.4, 142.3, 142.3, 142.2, 135.6, 132.5, 124.4, 122.8, 122.6, 119.9, 113.3, 111.0, 110.9, 110.3, 108.2, 105.8, 99.2, 99.0, 56.0, 56.0, 55.5, 55.4, 15.9, 15.8. Anal. Calcd. For C19H22O4: C, 72.59; H, 7.05. Found: C, 72.43; H, 6.96.

reactant | (3,4-dimethoxyphenyl)-(3,5-dimethoxyphenyl)methanone | 3.18 mmol, 0.96 g | COC=1C=C(C=CC1OC)C(=O)C1=CC(=CC(=C1)OC)OC | C17H18O5
reactant | lithium bis(trimethylsilyl)amide | 6.35 mmol, 1.0 M, 6.35 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile | COC=1C=C(C=C(C1)OC)C(=CC#N)C1=CC(=CC=C1)OC | C18H17NO3
catalyst | (ethyl)triphenylphosphonium bromide | 6.35 mmol, 2.36 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[1-(3,5-dimethoxyphenyl)prop-1-enyl]-1,2-dimethoxybenzene | COC=1C=C(C=C(C1)OC)C(=CC)C1=CC(=C(C=C1)OC)OC | C19H22O4
